US06531502B1
3-[2-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1H-indol-3-yl]-propionic acid (10 g) was dissolved in 100 mL of dimethylformamide. Carbonyldiimidazole (6.3 g) was added and the mixture stirred at ambient temperature for 1 hour. Methyl amine (1.8 g) in 30 mL of dimethylformamide was added and the stirring continued overnight. Fifty mL of water was added to the mixture and stirring was continued for 10 minutes. The precipitate was collected by vacuum filtration, washed with 20 mL of water and then 20 mL of ethanol. The solid was slurry-washed in 30 mL of refluxing ethanol for 5 minutes and cooled to room temperature. The solid was collected by vacuum filtration, washed with 20 mL of ethanol and vacuum dried to give 8.3 g (80% yield) of N-methyl-3-[2-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1H-indol-3-yl]-propionamide as an orange solid.

reactant | 3-[2-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1H-indol-3-yl]-propionic acid | 10 g | O=C1NC2=CC=CC=C2C1=CC=1NC=2CCCCC2C1CCC(=O)O | C20H20N2O3
reactant | Carbonyldiimidazole | 6.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Methyl amine | 1.8 g | CN | CH5N
reactant | water | Fifty mL | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | N-methyl-3-[2-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1H-indol-3-yl]-propionamide | 8.3 g, 80% yield | CNC(CCC1=C(NC=2CCCCC12)C=C1C(NC2=CC=CC=C12)=O)=O | C21H23N3O2
